US09428470B2
A) Benzyl 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoate
A mixture of 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid (413 mg), (bromomethyl)benzene (0.117 mL), N,N-diisopropylethylamine (0.342 mL), and DMF (4 mL) was stirred overnight at room temperature. To the reaction mixture, 0.1 M hydrochloric acid was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (227 mg).

reactant | 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid | 413 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)O)CC(OC(C)(C)C)=O)=O | C24H33NO8
reactant | (bromomethyl)benzene | 0.117 mL | BrCC1=CC=CC=C1 | C7H7Br
reactant | N,N-diisopropylethylamine | 0.342 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Benzyl 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoate | 227 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)OCC1=CC=CC=C1)CC(OC(C)(C)C)=O)=O | C31H39NO8
